* Razavi-Bench part2-figure-17-e3883444 -- strong-coupling transient
* Simulation intent: measure oscillation frequency at fixed L, Cnode, Rp, ISS
* while setting I1/ISS=0.20, then compare with the weak-coupling deck.
.include "../../simulator/ngspice-sky130/models/sky130.lib.spice"

* Assumption: separately retained VTOP rails use independent ideal 1.8 V supplies.
VTOP1_SRC VTOP1 0 1.8
VTOP2_SRC VTOP2 0 1.8

* Reviewed upper oscillator topology. D/G/S/B order is preserved exactly.
L_X1 VTOP1 X1 10n
L_Y1 VTOP1 Y1 10n
X_X1_CORE X1 Y1 TAIL_ISS1 TAIL_ISS1 sky130_fd_pr__nfet_01v8 w=7u l=0.15u
X_Y1_CORE Y1 X1 TAIL_ISS1 TAIL_ISS1 sky130_fd_pr__nfet_01v8 w=7u l=0.15u
X_X1_CPL X1 Y2 TAIL_I1_1 TAIL_I1_1 sky130_fd_pr__nfet_01v8 w=2.52u l=0.15u
X_Y1_CPL Y1 X2 TAIL_I1_1 TAIL_I1_1 sky130_fd_pr__nfet_01v8 w=2.52u l=0.15u
I_SS1 TAIL_ISS1 0 DC 0.8m
I_1_1 TAIL_I1_1 0 DC 0.16m

* Reviewed lower oscillator topology. D/G/S/B order is preserved exactly.
L_X2 VTOP2 X2 10n
L_Y2 VTOP2 Y2 10n
X_X2_CORE X2 Y2 TAIL_ISS2 TAIL_ISS2 sky130_fd_pr__nfet_01v8 w=7u l=0.15u
X_Y2_CORE Y2 X2 TAIL_ISS2 TAIL_ISS2 sky130_fd_pr__nfet_01v8 w=7u l=0.15u
X_X2_CPL X2 X1 TAIL_I1_2 TAIL_I1_2 sky130_fd_pr__nfet_01v8 w=2.52u l=0.15u
X_Y2_CPL Y2 Y1 TAIL_I1_2 TAIL_I1_2 sky130_fd_pr__nfet_01v8 w=2.52u l=0.15u
I_SS2 TAIL_ISS2 0 DC 0.8m
I_1_2 TAIL_I1_2 0 DC 0.16m

* Added tank-model assumptions: effective node capacitance and parallel loss.
C_X1 X1 0 1p
C_Y1 Y1 0 1p
C_X2 X2 0 1p
C_Y2 Y2 0 1p
R_X1 X1 VTOP1 1k
R_Y1 Y1 VTOP1 1k
R_X2 X2 VTOP2 1k
R_Y2 Y2 VTOP2 1k

* Added deterministic startup perturbation; opposite polarities select a mode.
.ic v(X1)=1.805 v(Y1)=1.795 v(X2)=1.795 v(Y2)=1.805

.control
set noaskquit
tran 10p 14n 0 10p uic
let vdiff1=v(X1)-v(Y1)
let vdiff2=v(X2)-v(Y2)
meas tran t_first when vdiff1=0 rise=8
meas tran t_last  when vdiff1=0 rise=18
meas tran vdiff1_pp pp vdiff1 from=10n to=14n
meas tran vdiff2_pp pp vdiff2 from=10n to=14n
let cycles=10
let f_meas=cycles/(t_last-t_first)
let pi=3.141592653589793
let l_tank=10e-9
let c_node=1e-12
let r_parallel=1000
let iss=0.8e-3
let i1=0.16e-3
let f0=1/(2*pi*sqrt(l_tank*c_node))
let q=r_parallel*sqrt(c_node/l_tank)
let alpha=i1/iss
let delta_f=alpha*f0/(2*q)
let f_est_plus=f0+delta_f
print f0 q alpha delta_f f_est_plus f_meas
quit
.endc

.end
