* Razavi-Bench part2 Figure 6 -- transistor-level asymmetric CL, large case
* Each visible inverter is exactly one Sky130 PMOS plus one Sky130 NMOS.

.include "../../simulator/ngspice-sky130/models/sky130.lib.spice"

VDD vdd 0 1.8
XP1 n1 n3 vdd vdd sky130_fd_pr__pfet_01v8 w=2.52u l=0.15u
XN1 n1 n3 0 0 sky130_fd_pr__nfet_01v8 w=1.26u l=0.15u
XP2 n2 n1 vdd vdd sky130_fd_pr__pfet_01v8 w=2.52u l=0.15u
XN2 n2 n1 0 0 sky130_fd_pr__nfet_01v8 w=1.26u l=0.15u
XP3 n3 n2 vdd vdd sky130_fd_pr__pfet_01v8 w=2.52u l=0.15u
XN3 n3 n2 0 0 sky130_fd_pr__nfet_01v8 w=1.26u l=0.15u
CBASE1 n1 0 20f
CBASE2 n2 0 20f
CBASE3 n3 0 20f
CL n1 0 1n
.ic v(n1)=1.8 v(n2)=0 v(n3)=0

.control
set noaskquit
tran 5n 100u 0 5n uic
meas tran early_pp pp v(n1) from=0 to=20u
meas tran late_pp pp v(n1) from=80u to=100u
meas tran late_avg avg v(n1) from=80u to=100u
print early_pp late_pp late_avg
quit
.endc

.end
