* Sky130 source follower operating point and approximate small-signal gain
.include "../models/sky130.lib.spice"

Vdd vdd 0 1.8
Vin in 0 0.9 AC 1

Xn vdd in out 0 sky130_fd_pr__nfet_01v8 w=4.2u l=0.15u
Rs out 0 10k

.op
.control
run
let gm=@m.xn.msky130_fd_pr__nfet_01v8[gm]
let gmbs=@m.xn.msky130_fd_pr__nfet_01v8[gmbs]
let gain_est=gm/(gm+gmbs+1/10000)
print gm gmbs gain_est v(out)
quit
.endc

.end
